US08426447B2
A vial was charged with (S)-2-amino-7′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2′-ol (0.300 g, 0.869 mmol), cesium carbonate (0.425 g, 1.303 mmol). DMF (3.47 mL) was added, the vial was sonicated for 30 s, and the mixture was stirred vigorously for 20 min, at which time some white solid still remained. The vial was cooled in an ice-bath for 10 min, then 1-chloroacetone (0.083 mL, 1.042 mmol) was added dropwise and the reaction was stirred over the weekend, during which the bath warmed to RT. The reaction was cooled back to 0° C. and 1-chloroacetone (0.083 mL, 1.042 mmol) was added. The reaction was stirred for two hours before 0.5 equivalents of cesium carbonate and chloroacetone were added at one hour intervals until the reaction was complete. The mixture was partitioned between water and EtOAc. The layers were separated, and the aqueous layer was extracted with EtOAc (2×). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The material was purified via column chromatography (RediSep 40 g, gradient elution 0-5% MeOH:DCM) to afford (S)-1-(2-amino-2′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yloxy)propan-2-one as a white solid. The remaining fractions were combined and concentrated to afford impure material as an off-white solid.

reactant | (S)-2-amino-7′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2′-ol | 0.869 mmol, 0.300 g | NC=1OC[C@@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)O)C=2C=NC=CC2)N1 | C20H15N3O3
reactant | cesium carbonate | 1.303 mmol, 0.425 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-chloroacetone | 1.042 mmol, 0.083 mL | ClCC(=O)C | C3H5ClO
reactant | 1-chloroacetone | 1.042 mmol, 0.083 mL | ClCC(=O)C | C3H5ClO
reactant | cesium carbonate | 0.5 equivalents | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
solvent | DMF | 3.47 mL | CN(C)C=O | C3H7NO
product | (S)-1-(2-amino-2′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yloxy)propan-2-one | NC=1OC[C@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)C=2C=NC=CC2)OCC(C)=O)N1 | C23H19N3O4
